US04963543
To a solution of (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.06 g) and triethylamine (0.92 ml) in a mixture of tetrahydrofuran (40 ml) and N,N-dimethylformamide (5 ml) was added dropwise methanesulfonyl chloride (0.44 ml) under ice-cooling. The mixture was stirred at 2° C. for 1 hour and then allowed to stand at ambient temperature for 1 hour. To the reaction mixture was added ethyl acetate (50 ml). The solution was washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride successively, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.70 g).

reactant | (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.06 g | C(N)(=O)CSC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19N3O6S
reactant | triethylamine | 0.92 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.44 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-2-(carbamoylmethyl)thiomethyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.70 g | C(N)(=O)CSC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O8S2
